US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-(4-fluorophenyl)-5-methylpyridine-2-carboxamide 1-oxide hydrochloride
To a suspension of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-(4-fluorophenyl)-5-methylpyridine-2-carboxamide 1-oxide (1.54 g, 2.77 mmol) in ethanol (15 mL) was added and dissolved therein 6N hydrochloric acid (554 μL, 3.32 mmol), and the mixture was left standing at room temperature overnight. The precipitate was collected by filtration and washed with ethanol to give a white powder. The white powder was dissolved in ethyl acetate, tetrahydrofuran and saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted twice with ethyl acetate. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The residue was suspended in ethanol (30 mL) and heated to 80° C. 6N Hydrochloric acid (370 μL, 2.22 mmol) was added dropwise and dissolved therein. The solution was allowed to gradually cool to 50° C., and the mixture was stirred for 6 hr. The precipitate was collected by filtration and washed with ethanol to give a white solid. The white solid was suspended in methyl ethyl ketone (10 mL), and the suspension was stirred at 50° C. overnight. The precipitate was collected by filtration and washed with methyl ethyl ketone to give the title compound (747 mg, 46%) as white crystals.

reactant | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-(4-fluorophenyl)-5-methylpyridine-2-carboxamide 1-oxide | 2.77 mmol, 1.54 g | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2[N+](=C(C(=CC2)C)C2=CC=C(C=C2)F)[O-])F)C1 | C30H23F2N5O4
reactant | hydrochloric acid | 3.32 mmol, 6N, 554 μL | Cl | ClH
reactant | Hydrochloric acid | 2.22 mmol, 6N, 370 μL | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methyl ethyl ketone | 10 mL | C(C)C(=O)C | C4H8O
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-(4-fluorophenyl)-5-methylpyridine-2-carboxamide 1-oxide hydrochloride | 747 mg, 46% | Cl.C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2[N+](=C(C(=CC2)C)C2=CC=C(C=C2)F)[O-])F)C1 | InChI=1S/C30H23F2N5O4.ClH/c1-17-2-11-24(37(40)28(17)18-5-7-20(31)8-6-18)30(39)33-21-9-12-25(23(32)14-21)41-22-10-13-27-34-26(16-36(27)15-22)35-29(38)19-3-4-19;/h2,5-16,19H,3-4H2,1H3,(H,33,39)(H,35,38);1H
